US04859692
Methyl 4-(1-benzyl-5-hexanamidoindol-3-ylmethyl)-3-methoxybenzoate
Potassium t-butoxide (0.04 g.) was added to a stirred solution of methyl 4-(5-hexanamidoindol-3-ylmethyl)-3-methoxybenzoate (0.15 g.) in dry tetrahydrofuran (5 ml.), under an atmosphere of nitrogen. The resulting dark-green mixture was stirred for 30 minutes. Benzyl bromide (0.062 g.) was added, causing the color to change to light brown. After 1 hour, the mixture was poured into 1M hydrochloric acid (20 ml.). This mixture was extracted with ethyl acetate (2×25 ml.). The combined extracts were dried (MggS04) and evaporated. The brown oil obtained was purified by flash chromatography on silica gel (50 ml.), eluting with 3:7 v/v ethyl acetate:hexane, to give the title compound (0.04 g, 17%) as an oil; NMR: 0.86(t,3H, CH2.CH3), 1.27(m,4H, CH2.CH2.CH3), 1.57(m,2H, CH2.CH2.CON), 2.24(t,2H, CH2.CH2.CON), 3.82(s, 3H, CO.OCH3), 3.91(s,3H, OCH3), 3.99(s,2H, CH2.Ar), 5.32 (s,2H, NCH2Ph), 7.21(m,10H), 7.44(m,2H), 7.75(d, 1H), 9.64(s,1H, NH).

reactant | Potassium t-butoxide | 0.04 g | CC(C)([O-])C.[K+]
reactant | methyl 4-(5-hexanamidoindol-3-ylmethyl)-3-methoxybenzoate | 0.15 g | C(CCCCC)(=O)NC=1C=C2C(=CNC2=CC1)CC1=C(C=C(C(=O)OC)C=C1)OC | C24H28N2O4
reactant | Benzyl bromide | 0.062 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 1M, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Methyl 4-(1-benzyl-5-hexanamidoindol-3-ylmethyl)-3-methoxybenzoate | 0.04 g, 17% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)NC(CCCCC)=O)CC1=C(C=C(C(=O)OC)C=C1)OC | C31H34N2O4
